US05846982
To a mixture of 2.0 gm (8.5 mMol) 6-chloro-3-(piperidin-4-yl)-1H-indole and 2.25 gm (21 mMol) sodium carbonate in 20 mL dimethylformamide was added a solution of 1.74 gm (8.4 mMol) 1-methyl-4-(2-methanesulfonyloxy)ethyl-1H-pyrazole in a minimal volume of dimethylformamide. The resultant mixture was heated at 100° C. for 18 hours. The reaction mixture was then cooled to room temperature and concentrated under reduced pressure. The residue was partitioned between dichloromethane and water. The organic phase was separated and washed first with water and then with saturated aqueous sodium chloride. The remaining organics were dried over sodium sulfate and concentrated under reduced pressure to give a yellow oil. This residue was subjected to silica gel chromatography, eluting with dichloromethane containing 5% methanol. Fractions shown to contain product were combined and concentrated under reduced pressure to give 1.74 gm (59.8%) of 6-chloro-3-(1-(2-(1-methylpyrazol-4-yl)ethyl)piperidin-4-yl)-1H-indole as a yellow foam. The oxalate salt was formed and crystallized from methanol to provide the title compound as yellow crystals.

reactant | 6-chloro-3-(piperidin-4-yl)-1H-indole | 8.5 mMol, 2.0 gm | ClC1=CC=C2C(=CNC2=C1)C1CCNCC1 | C13H15ClN2
reactant | sodium carbonate | 21 mMol, 2.25 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 6-chloro-3-(1-(2-(1-methylpyrazol-4-yl)ethyl)piperidin-4-yl)-1H-indole | 1.74 gm, 59.8% | ClC1=CC=C2C(=CNC2=C1)C1CCN(CC1)CCC=1C=NN(C1)C | C19H23ClN4
